US05563141
3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoic acid
A mixture containing ethyl 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoate (50 mg), concentrated hydrochloric acid (1 ml) and dioxan (4 ml) was stirred at 50°-60° C. for 1 hour, then concentrated to give a foam which was triturated with hot isopropanol. Filtration gave the title compound (48 mg) as pale cream prisms, m.p. 188°-190° C. NMR (d6DMSO+d4AcOH): δ1.0-1.3(2H,m); 1.5-1.6(3H,m); 1.8(2H,d); 2.3(2H,t); 2.6-2.8(1H,m); 2.95-3.15(1H,m); 3.5(4H,br.s); 3.6-3.7(1H,m); 4.0-4.2(4H,br.s); 4.3-4.5(3H,m); 7.25(2H,d); 8.35(2H,d); m/e 361(M+H)+ ; calculated for C19H28N4O3. 2HCl. H2O: C, 50.6; H, 7.2; N, 12.4; H2O, 4.0; found: C, 50.3; H, 7.2; N, 12.2; H2O, 4.0%.

reactant | ethyl 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoate | 50 mg | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1CCC(CC1)CCC(=O)OCC | C21H32N4O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | dioxan | 4 ml | O1CCOCC1 | C4H8O2
product | 3-[1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-yl]propanoic acid | 48 mg | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1CCC(CC1)CCC(=O)O | C19H28N4O3
